US08735384B2
In a small, sealed Smith synthesizer vial, 6-(2-(chloro(phenyl)methyl)-6-methylphenyl)-3-morpholinoquinolin-2-amine hydrochloride (0.030 g, 0.062 mmol) and imidazole (0.021 g, 0.312 mmol) were treated with ACN (0.416 mL). The solution was stirred at ambient temperature for 1 h. The reaction mixture was warmed to 100° C. for 1 h and then allowed to cool to ambient temperature. The mixture was purified by HPLC (1-70% acetonitrile/H2O, TFA modifier). A single clean fraction was treated with NH4OH and concentrated to ¼ volume. The resulting precipitate was collected and dried under a stream of N2 to afford 6-(2-((1H-imidazol-1-yl)(phenyl)methyl)-6-methylphenyl)-3-morpholinoquinolin-2-amine. MS (ESI, pos. ion) m/z: 476 (M+1).

reactant | 6-(2-(chloro(phenyl)methyl)-6-methylphenyl)-3-morpholinoquinolin-2-amine hydrochloride | 0.062 mmol, 0.030 g | Cl.ClC(C1=C(C(=CC=C1)C)C=1C=C2C=C(C(=NC2=CC1)N)N1CCOCC1)C1=CC=CC=C1
reactant | imidazole | 0.312 mmol, 0.021 g | N1C=NC=C1 | C3H4N2
solvent | ACN | 0.416 mL | C(C)#N | C2H3N
product | 6-(2-((1H-imidazol-1-yl)(phenyl)methyl)-6-methylphenyl)-3-morpholinoquinolin-2-amine | N1(C=NC=C1)C(C1=C(C(=CC=C1)C)C=1C=C2C=C(C(=NC2=CC1)N)N1CCOCC1)C1=CC=CC=C1 | C30H29N5O
